US09062152B2
Synthesis of 3,6-bis(9-(thiophen-3-yl)heptadecan-9-yl)thieno[3,2-b]thiophene
To a suspension of sodium hydride in THF is added a THF solution of 3,6-bis(thiophen-3-ylmethyl)thieno[3,2-b]thiophene. Octyl bromide is then added and the mixture is refluxed until reaction completion, as determined by TLC. The reaction is then poured into cold water, extracted with MTBE and combined organic phases are washed with water. After drying the organic phase with magnesium sulfate and filtering through Buchner the solvent is evaporated. The resulting product can be purified by column chromatography.

reactant | sodium hydride | [H-].[Na+]
reactant | 3,6-bis(thiophen-3-ylmethyl)thieno[3,2-b]thiophene | S1C=C(C=C1)CC=1C2=C(SC1)C(=CS2)CC2=CSC=C2 | C16H12S4
reactant | Octyl bromide | C(CCCCCCC)Br | C8H17Br
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 3,6-bis(9-(thiophen-3-yl)heptadecan-9-yl)thieno[3,2-b]thiophene | S1C=C(C=C1)C(CCCCCCCC)(CCCCCCCC)C=1C2=C(SC1)C(=CS2)C(CCCCCCCC)(CCCCCCCC)C2=CSC=C2 | C48H76S4
